US08957080B2
Into a 100 mL round-bottom flask, was placed a solution of 3-(2-fluoro-4-phenoxyphenyl)-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (190 mg, 0.47 mmol, 1.00 equiv) in dichloromethane (50 mL), 2-cyanoacetic acid (60 mg, 0.71 mmol, 1.50 equiv), and 1-[(1H-imidazol-1-yl)carbonyl]-1H-imidazole (114 mg, 0.70 mmol, 1.50 equiv). The resulting solution was stirred for 24 h at room temperature and then diluted with dichloromethane. The resulting mixture was washed with NH4Cl and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100:1) to give 100 mg (45%) of 3-[(3R)-3-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile as a white solid.

reactant | 3-(2-fluoro-4-phenoxyphenyl)-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.47 mmol, 190 mg, 1.00 equiv | FC1=C(C=CC(=C1)OC1=CC=CC=C1)C1=NN(C2=NC=NC(=C21)N)[C@H]2CNCCC2 | C22H21FN6O
reactant | 2-cyanoacetic acid | 0.71 mmol, 60 mg, 1.50 equiv | C(#N)CC(=O)O | C3H3NO2
reactant | 1-[(1H-imidazol-1-yl)carbonyl]-1H-imidazole | 0.70 mmol, 114 mg, 1.50 equiv | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-[(3R)-3-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 100 mg, 45% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H22FN7O2
